US07745438B2
Dibenzyl-{(1S,2S)-2-benzyloxy-1-(3,5-difluorobenzyl)-2-[(3R,5S,6R)-6-(2,2-dimethylpropoxy)-5-methylmorpholin-3-yl]-ethyl}-amine
Mix (3S,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-3-methylmorpholin-2-ol (1.06 g, 1.85 mmol) with neopentanol (1.63 g, 18.5 mmol,) in dichloromethane (0.2 mL). Add 4 Å molecular sieves (850 mg), then methanesulphonic acid (2.4 mL, 37 mmol) and heat at 50° C. for 4 hours. Cool to room temperature, dilute with dichloromethane and add slowly to a solution of saturated aqueous sodium bicarbonate. Extract the aqueous layer with dichloromethane, dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 100:0 to 90:10 hexanes:ethyl acetate) to give the desired compound as a white solid (665 mg, 56% yield).

reactant | (3S,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-3-methylmorpholin-2-ol | 1.85 mmol, 1.06 g | C(C1=CC=CC=C1)O[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)[C@H]1COC([C@@H](N1)C)O | C35H38F2N2O3
reactant | neopentanol | 18.5 mmol, 1.63 g | C(C(C)(C)C)O | C5H12O
reactant | methanesulphonic acid | 37 mmol, 2.4 mL | CS(=O)(=O)O | CH4O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 0.2 mL | ClCCl | CH2Cl2
product | Dibenzyl-{(1S,2S)-2-benzyloxy-1-(3,5-difluorobenzyl)-2-[(3R,5S,6R)-6-(2,2-dimethylpropoxy)-5-methylmorpholin-3-yl]-ethyl}-amine | 665 mg, 56% yield | C(C1=CC=CC=C1)N([C@H]([C@H]([C@@H]1N[C@H]([C@@H](OC1)OCC(C)(C)C)C)OCC1=CC=CC=C1)CC1=CC(=CC(=C1)F)F)CC1=CC=CC=C1 | C40H48F2N2O3
